US07632832B2
Step A. 5-Benzyl-3-(1-benzylpiperidin-4-yl)imidazolidine-2,4-dione
Sodium ethoxide (0.1301 mL, 1.66 mmol, 21% wt.) was added to a solution of methyl N-{[(1-benzylpiperidin-4-yl)amino]carbonyl}phenylalaninate (546 mg, 1.38 mmol) in ethanol (715 mL) at 0° C. and then warmed to ambient temperature. The reaction was concentrated and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound (490 mg). MS 364.2 (M+1)

reactant | Sodium ethoxide | 1.66 mmol, 0.1301 mL | [O-]CC.[Na+]
reactant | methyl N-{[(1-benzylpiperidin-4-yl)amino]carbonyl}phenylalaninate | 1.38 mmol, 546 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C23H29N3O3
solvent | ethanol | 715 mL | C(C)O | C2H6O
product | 5-Benzyl-3-(1-benzylpiperidin-4-yl)imidazolidine-2,4-dione | 490 mg | C(C1=CC=CC=C1)C1C(N(C(N1)=O)C1CCN(CC1)CC1=CC=CC=C1)=O | C22H25N3O2
